US06482986B1
a) 4-(3,6-Dihydropyran-4-yl)phenol
[lacuna] is added at −40° C. to 12.7 g of 4-bromophenol in 150 ml of tetrahydrofuran. At this same temperature, 100 ml of 1.6 M butyllithium in hexane are added to the reaction mixture, followed by addition of 8.1 g of 4-tetrahydropyranone. The reaction mixture is left stirring for 18 hours at room temperature and then hydrolysed with 1 N hydrochloric acid. The resulting mixture is extracted several times with diethyl ether, the organic phase is dried over magnesium sulphate and the solvents are evaporated off under reduced pressure. The solid obtained is purified by chromatography on a column of silica gel, eluting with a cyclohexane/ethyl acetate mixture varying from 90/10 to 80/20 (v/v).

reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | butyllithium | 1.6 M, 100 ml | C(CCC)[Li]
reactant | 4-tetrahydropyranone | 8.1 g | O1CCC(CC1)=O | C5H8O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-(3,6-Dihydropyran-4-yl)phenol | O1CCC(=CC1)C1=CC=C(C=C1)O | C11H12O2
